US04604390
9-Methoxy-5-nitro-2-[2-(1-pyrrolidinyl)ethyl]-2H-[1]-benzopyrano[4,3,2-cd]indazole, monohydrochloride
A mixture of 12.2 g of 1-chloro-7-methoxy-4-nitro-9H-xanthen-9-one and 11.0 g of 1-(2-hydrazinoethyl)pyrrolidine in 200 ml of THF was stirred 20 hours at room temperature. The orange liquor was decanted, freed of solvent under reduced pressure, and the residue, in chloroform, was chromatographed over silica gel, eluting with chloroform-methanol (25:1 by volume). The desired fractions yielded the free base of the title compound, mp 140°-142° C.

reactant | 1-chloro-7-methoxy-4-nitro-9H-xanthen-9-one | 12.2 g | ClC1=CC=C(C=2OC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO5
reactant | 1-(2-hydrazinoethyl)pyrrolidine | 11.0 g | N(N)CCN1CCCC1 | C6H15N3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 9-Methoxy-5-nitro-2-[2-(1-pyrrolidinyl)ethyl]-2H-[1]-benzopyrano[4,3,2-cd]indazole, monohydrochloride | Cl.COC=1C=CC2=C(C1)C1=NN(C=3C=CC(=C(C13)O2)[N+](=O)[O-])CCN2CCCC2 | InChI=1S/C20H20N4O4.ClH/c1-27-13-4-7-17-14(12-13)19-18-15(5-6-16(24(25)26)20(18)28-17)23(21-19)11-10-22-8-2-3-9-22;/h4-7,12H,2-3,8-11H2,1H3;1H
